US08541448B2
Intermediate 15.4: 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed chlorosulfonic acid (4 mL). This was followed by the dropwise addition of a solution of 6,8-dichloro-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline (1.6 g, 5.5 mmol, 1.00 equiv) in dichloromethane (30 mL) at 0° C. The resulting solution was stirred for 1 h at 0° C. in a water/ice bath and for an additional 1 h at 25° C. in an oil bath. To this was added chlorosulfonic acid (16 mL) dropwise at 25° C. The resulting solution was stirred for an additional 1 h at 25° C. To the resulting mixture was cooled to 0° C. and aqueous ammonia (120 mL) was added dropwise. The resulting solution was stirred for an additional 3 h 90° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was dissolved in 20 mL of water. The resulting solution was extracted with dichloromethane (3×30 mL) and the combined organic layers concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (100:1). The crude product (0.5 g) was purified by preparative HPLC to give 53 mg (3%) of the title compound as a TFA salt. 1H-NMR (300 MHz, CDCl3, ppm): 7.89 (1H, d, J=8.4 Hz), 7.35 (2H, d, J=8.4 Hz), 7.30 (1H, m), 6.77 (1H, s), 4.87 (1H, s), 4.39 (1H, s), 3.69 (2H, m), 2.98 (1H, t), 2.67 (1H, dd), 2.55 (3H, s). MS (ES, m/z): 371 [M+H]+.

reactant | 6,8-dichloro-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline | 5.5 mmol, 1.6 g, 1.00 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=CC=C1 | C16H15Cl2N
reactant | chlorosulfonic acid | 16 mL | ClS(=O)(=O)O | ClHO3S
reactant | ammonia | 120 mL | N | H3N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide | 53 mg, 3% | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)S(=O)(=O)N | C16H16Cl2N2O2S
